US05318966
3.46 g (0.01155 mol) of rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole were dissolved in 0.13 l of 48% aqueous HBr and boiled under reflux for 5 hours. The mixture was poured into an ice-cold aqueous solution of 46.3 g (1.16 mol) of NaOH, whereupon, after the addition of solid NaHCO3, the mixture was extracted three times with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4 and then filtered, whereupon the filtrate was concentrated. By chromatography of the residue over silica gel with cyclohexane/ethyl acetate 4:1 there were obtained 3.38 g (100%) of oily rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol.

reactant | rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.01155 mol, 3.46 g | C1(CCCCC1)CN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C20H29NO
reactant | NaOH | 1.16 mol, 46.3 g | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HBr | 0.13 l | Br | BrH
product | rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 3.38 g, 100% | C1(CCCCC1)CN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C19H27NO
